US08563717B2
2-(Butyloxy)-9-(4-piperidinylmethyl)-9H-purin-6-amine hydrochloride
4N hydrogen chloride in dioxane (5.3 mL) was added to a solution of 1,1-dimethylethyl 4-{[6-amino-2-(butyloxy)-8-(methyloxy)-9H-purin-9-yl]methyl}-1-piperidinecarboxylate (630 mg) in methanol (16 mL). After 4.5 hours at room temperature, the reaction mixture was concentrated and dried under high vacuum. Purification by chromatography on silica gel eluting with a gradient of chloroform/methanol/water 90:10:1 to 75:25:1 afforded the title compound as a white solid (404 mg).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | 1,1-dimethylethyl 4-{[6-amino-2-(butyloxy)-8-(methyloxy)-9H-purin-9-yl]methyl}-1-piperidinecarboxylate | 630 mg | NC1=C2N=C(N(C2=NC(=N1)OCCCC)CC1CCN(CC1)C(=O)OC(C)(C)C)OC | C21H34N6O4
solvent | dioxane | 5.3 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 16 mL | CO | CH4O
product | 2-(Butyloxy)-9-(4-piperidinylmethyl)-9H-purin-6-amine hydrochloride | 404 mg | Cl.C(CCC)OC1=NC(=C2N=CN(C2=N1)CC1CCNCC1)N | InChI=1S/C15H24N6O.ClH/c1-2-3-8-22-15-19-13(16)12-14(20-15)21(10-18-12)9-11-4-6-17-7-5-11;/h10-11,17H,2-9H2,1H3,(H2,16,19,20);1H
